US06982348B2
N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-(trifluoromethyl)benzamide
To a solution of (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride (200 mg, 0.57 mmol) in ethyl acetate (5 ml) were added 4-(trifluoromethyl)benzoyl chloride (179 mg, 0.86 mmol) and saturated aqueous sodium hydrogen carbonate (5 ml) and the mixture was stirred at room temperature for 1 hr. The reaction solution was diluted with water (50 ml), and extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1). Recrystallization from ethyl acetate-hexane gave the title compound (171 mg, 62%).

reactant | (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride | 0.57 mmol, 200 mg | Cl.FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N)O
reactant | 4-(trifluoromethyl)benzoyl chloride | 0.86 mmol, 179 mg | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-(trifluoromethyl)benzamide | 171 mg, 62% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(C1=CC=C(C=C1)C(F)(F)F)=O)O | C24H18F7NO2
